* source CIRCUIT
X_U2         0 N15640 N15931 N15901 N15628 uA741
C_C2         N16107 N15640  1uF IC=1 TC=0,0 
R_R2         N15640 N15628  10k TC=0,0 
V_V2         0 N15901 100
V_V3         N15931 0 100
X_U3         0 N16122 N15931 N15901 N16107 uA741
R_R3         N16122 N16107  100k TC=0,0 
R_R4         N15628 N16122  693.14718 TC=0,0 
