* source PS2
X_U4         0 N21540 N21681 N21702 N21518 uA741
R_R2         N21548 0  15.9504 TC=0,0 
R_R1         N25491 N21548  7959.25 TC=0,0 
R_R3         N21540 N21518  159185 TC=0,0 
C_C10         N21548 N21540  1uF  TC=0,0 
C_C11         N21548 N21518  1uF  TC=0,0 
V_V10         0 N21702 50Vdc
V_V11         N21681 0 50Vdc
V_V14         N23560 0 50Vdc
V_V13         0 N23570 50Vdc
R_R4         N23478 0  15.1909 TC=0,0 
X_U5         0 N23472 N23560 N23570 N23434 uA741
C_C13         N23478 N23434  1uF  TC=0,0 
R_R5         N25491 N23478  7580.24 TC=0,0 
R_R6         N23472 N23434  151605 TC=0,0 
C_C12         N23478 N23472  1uF  TC=0,0 
C_C14         N24280 N24274  1uF  TC=0,0 
R_R9         N24274 N24220  144714 TC=0,0 
V_V16         0 N24372 50Vdc
V_V17         N24362 0 50Vdc
R_R8         N25491 N24280  7235.68 TC=0,0 
C_C15         N24280 N24220  1uF  TC=0,0 
X_U6         0 N24274 N24362 N24372 N24220 uA741
R_R7         N24280 0  14.5004 TC=0,0 
V_V18         N25491 0  AC 1
+SIN 0 1 105 0 0 0
